US07452992B2
To a solution of tert-butyl 2-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-2-phenylmorpholine-4-carboxylate (330 mg, 0.62 mmol) in 5 mL CHCl3 was added 0.8 mL of a solution of 4N HCl in dioxane. After stirring at room temperature for 2 h, another 3 mL 4N HCl in dioxane was added and the mixture was heated at 40° C. for 90 min. The solution was then evaporated and dried in vacuo to provide 2-methyl-1-{(1R,5S)-8-[2-(2-phenylmorpholin-2-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole trihydrochloride, which was used without further purification. ESI-MS 431 (M+H).

reactant | tert-butyl 2-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-2-phenylmorpholine-4-carboxylate | 0.62 mmol, 330 mg | CC1=NC2=C(N1C1C[C@H]3CC[C@@H](C1)N3CCC3(CN(CCO3)C(=O)OC(C)(C)C)C3=CC=CC=C3)C=CC=C2 | C32H42N4O3
reactant | HCl | 4N | Cl | ClH
reactant | HCl | 4N, 3 mL | Cl | ClH
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-methyl-1-{(1R,5S)-8-[2-(2-phenylmorpholin-2-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole trihydrochloride | Cl.Cl.Cl.CC1=NC2=C(N1C1C[C@H]3CC[C@@H](C1)N3CCC3(CNCCO3)C3=CC=CC=C3)C=CC=C2 | InChI=1S/C27H34N4O.3ClH/c1-20-29-25-9-5-6-10-26(25)31(20)24-17-22-11-12-23(18-24)30(22)15-13-27(19-28-14-16-32-27)21-7-3-2-4-8-21;;;/h2-10,22-24,28H,11-19H2,1H3;3*1H/t22-,23+,24?,27?;;;
